US04710323
321 ml. (4.7 moles) of chlorosulfonic acid and 79 g. (0.5 moles) of 4-chloro-nitrobenzene are stirred at 130° C. for 6 hours. The reaction mixture is then cooled to a temperature below 10° C. and is poured onto 750 ml. of icy water. The mixture is filtered at room temperature and the substance collected on the filter is washed solid-free with about 2 litres of water. The crude 2-chloro-5-nitrobenzene sulfonyl chloride obtained is subjected to the subsequent reaction steps without purification. 118 g. (0.935 moles) of anhydrous sodium sulfite and 20 g. of sodium bicarbonate are dissolved in 250 ml. of water, and to the solution obtained a mixture of the crude 2-chloro-5-nitrobenzene sulfonyl chloride and 20 g. of sodium bicarbonate is added at a temperature of 23° to 25° C., in one hour. The reaction mixture is stirred for two hours at a temperature of 23° to 25° C., and, after the addition of 200 ml. of toluene, for further 15 minutes. The mixture is stirred at 25° C. and the substance filtered off is washed with 100 ml. of toluene. The sodium 2-chloro-5-nitrobenzene sulfinate obtained is dissolved in 400 ml. of water at 40° C., and the solution is admixed with 200 ml. of toluene. The insoluble part is filtered off and the toluene phase is separated from the filtrate. The aqueous phase is cooled to 10° C., acidified with 100 ml. of concentrated aqueous hydrochloric acid solution and the precipitated crystals are stirred, filtered off at 10° C. and dried. 61 g. of 2-chloro-5-nitrobenzene sulfinic acid are obtained. Yield: 55% of theoretical related to 4-chloro-nitrobenzene.

reactant | chlorosulfonic acid | 4.7 moles | ClS(=O)(=O)O | ClHO3S
reactant | 4-chloro-nitrobenzene | 0.5 moles | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | water | O | H2O
product | 2-chloro-5-nitrobenzene sulfonyl chloride | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3Cl2NO4S
